US03975535
4,6,7-Trimethylisocoumarin-3-carboxylic acid monohydrate, mp. (EtOH-H2O) 241°, (Found: C, 62.27; H, 5.74 C13H12O4. H2O requires C, 62.39; H, 5.64) was prepared from 2-acetyl-4,5-dimethylbenzoic acid by an analogous procedure to that described in Example 2.

reactant | EtOH-H2O | C(C)O.O
reactant | 2-acetyl-4,5-dimethylbenzoic acid | C(C)(=O)C1=C(C(=O)O)C=C(C(=C1)C)C | C11H12O3
solvent | H2O | O | H2O
product | 4,6,7-Trimethylisocoumarin-3-carboxylic acid monohydrate | O.CC1=C(OC(=O)C2=CC(=C(C=C12)C)C)C(=O)O | InChI=1S/C13H12O4.H2O/c1-6-4-9-8(3)11(12(14)15)17-13(16)10(9)5-7(6)2;/h4-5H,1-3H3,(H,14,15);1H2
